US03992389
4-Benzamido-1-[4-(4-tert-butyl-phenyl)-4-oxobutyl]piperidine
4-Chloro-4'-tert-butylbutyrophenone (3.58 g.), 4-benzamidopiperidine (3.06 g.) and anhydrous potassium carbonate 2.67 g.) were reacted together in the manner of Example 68 to give the title compound (3.495 g.) as the hydrochloride, colourless microcrystals, m.p. 268.0°. Analysis: Found: C, 70.50; H, 8.14; N, 6.29. C26H34N2O2.HCl requires C, 70.48; H, 7.96; N, 6.32%.

reactant | 4-Chloro-4'-tert-butylbutyrophenone | 3.58 g | ClCCCC(=O)C1=CC=C(C=C1)C(C)(C)C | C14H19ClO
reactant | 4-benzamidopiperidine | 3.06 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | potassium carbonate | 2.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloride | Cl | ClH
product | 4-Benzamido-1-[4-(4-tert-butyl-phenyl)-4-oxobutyl]piperidine | 3.495 g | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C)(C)C | C26H34N2O2
